US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl chloride (37 mg, 0.11 mmol), prepared as described in Example 3a, was dissolved in anhydrous dioxane (2 mL) and to it was added 4-azepan-1-yl-phenylamine (19 mg, 0.1 mmol) followed by DIEA (20 uL, 0.11 mmol) and the mixture was stirred at 100° C. for 3 h. It was then concentrated in vacuo and the residue was purified by Preparative TLC (silica gel, 5% MeOH/DCM) to obtain 3 mg (6%) of pure 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-azepan-1-yl-phenyl)-amide. 1H-NMR (300 MHz, CDCl3) 9.08 (s, 1H), 7.55-7.23 (m, 4H), 7.18 (d, 1H), 6.77 (d, 1H), 6.37 (s, 1H), 4.27 (m, 2H), 4.07 (s, 6H), 3.68-3.32 (m, 3H), 3.30-2.90 (m, 2H), 2.24-1.88 (m, 4H), 1.86-1.38 (m, 10H). LC/MS (ESI): 490.3 (MH)+.

reactant | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl chloride | 0.11 mmol, 37 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCN(CC1)C(=O)Cl | C16H18ClN3O3
reactant | 4-azepan-1-yl-phenylamine | 0.1 mmol, 19 mg | N1(CCCCCC1)C1=CC=C(C=C1)N | C12H18N2
reactant | DIEA | 0.11 mmol, 20 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-azepan-1-yl-phenyl)-amide | 3 mg, 6% | N1(CCCCCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C28H35N5O3
